US07279600B2
2-Fluoro-4′-hydroxy-1,1′-biphenyl-4-carbaldehyde oxime
The title compound was prepared by reacting 4′-{[tert-butyl(dimethyl)silyl]oxy}-2-fluoro-[1,1′-biphenyl]-4-carbaldehyde oxime (1.02 mmol) with tetrabutylammonium fluoride (1.12 mL of 1.0 M solution in tetrahydrofuran, 1.12 mmol) according to Method E to yield 198 mg (84%) of a white solid: mp 178-180° C.; 1H NMR (DMSO-d6): δ 6.84-6.89 (2H, m), 7.39-5.54 (5H, m), 8.17 (1H, s), 9.71 (1H, s), 11.43 (1H, s); MS (ESI) m/z 230 (M−H)−, 232 (M+H)+.

reactant | 4′-{[tert-butyl(dimethyl)silyl]oxy}-2-fluoro-[1,1′-biphenyl]-4-carbaldehyde oxime | 1.02 mmol | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)C1=C(C=C(C=C1)C=NO)F | C19H24FNO2Si
reactant | tetrabutylammonium fluoride | 1.12 mmol, 1.0 M, 1.12 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-Fluoro-4′-hydroxy-1,1′-biphenyl-4-carbaldehyde oxime | FC1=C(C=CC(=C1)C=NO)C1=CC=C(C=C1)O | C13H10FNO2
